US09359329B2
According to Process 4.2, starting with 0.92 g of 6-chloro-N-cyclopentyl-N-[(2,2-dimethyl-1,3-dioxolan-4-yl)methyl]pyridine-3-sulfonamide and 0.24 mL of hydrazine hydrate, 0.85 g of N-cyclopentyl-N-[(2,2-dimethyl-1,3-dioxolan-4-yl)methyl]-6-hydrazinylpyridine-3-sulfonamide is obtained in the form of a yellow oil.

reactant | 6-chloro-N-cyclopentyl-N-[(2,2-dimethyl-1,3-dioxolan-4-yl)methyl]pyridine-3-sulfonamide | 0.92 g | ClC1=CC=C(C=N1)S(=O)(=O)N(CC1OC(OC1)(C)C)C1CCCC1 | C16H23ClN2O4S
reactant | hydrazine hydrate | 0.24 mL | O.NN
product | N-cyclopentyl-N-[(2,2-dimethyl-1,3-dioxolan-4-yl)methyl]-6-hydrazinylpyridine-3-sulfonamide | 0.85 g, Yield=99% | C1(CCCC1)N(S(=O)(=O)C=1C=NC(=CC1)NN)CC1OC(OC1)(C)C | C16H26N4O4S
